US08017607B2
A mixture of rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-4-(2,2-dimethyl-propyl)-pyrrolidine-3-carbonitrile (51.6 mg, 0.122 mmol) and [1-(imidazole-1-carbonyl)-piperidin-4-yl]-acetic acid ethyl ester (293.3 mg, 1.10 mmol) in CH2Cl2 (8 mL) was stirred at reflux for 16 hrs then 1 h at 140° C. in a microwave tube and finally at 160° C. for 1 hr. The reaction mixture was then purified by flash column to give rac-{1-[(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidine-1-carbonyl]-piperidin-4-yl}-acetic acid ethyl ester (40.4 mg, 53.4%). HRMS (ES+) m/z Calcd for C32H37Cl2F2N3O3+H [(M+H)+]: 620.2253; Found: 620.2254.

reactant | rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-4-(2,2-dimethyl-propyl)-pyrrolidine-3-carbonitrile | 0.122 mmol, 51.6 mg | ClC=1C(=C(C=CC1)C1NCC(C1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)F | C22H22Cl2F2N2
reactant | [1-(imidazole-1-carbonyl)-piperidin-4-yl]-acetic acid ethyl ester | 1.10 mmol, 293.3 mg | C(C)OC(CC1CCN(CC1)C(=O)N1C=NC=C1)=O | C13H19N3O3
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
product | rac-{1-[(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidine-1-carbonyl]-piperidin-4-yl}-acetic acid ethyl ester | 40.4 mg, 53.4% | C(C)OC(CC1CCN(CC1)C(=O)N1[C@@H]([C@@]([C@@H](C1)CC(C)(C)C)(C#N)C1=C(C=C(C=C1)Cl)F)C1=C(C(=CC=C1)Cl)F)=O | C32H37Cl2F2N3O3
